US04766115
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and sodium ethanethiolate in ethanethiol there is obtained ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-thiocarboximidate and therefrom with hydrochloric acid in alcohol there is obtained the hydrochloride, m.p. 220° C. (with decomposition);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | sodium ethanethiolate | C(C)[S-].[Na+]
solvent | ethanethiol | C(C)S | C2H6S
product | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-thiocarboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(=N)SCC | C17H18N2S
